US07094789B2
Synthesis of N-[(5-isoquinolyl)sulfonyl]-1,3-propylenediamine (Intermediate 50)
According to the method of Reference Example 2, a reaction was performed by using isoquinoline-5-sulfonyl chloride hydrochloride (20 g) and 1,3-propylenediamine (22.2 g) to obtain the title compound (16.3 g).

reactant | isoquinoline-5-sulfonyl chloride hydrochloride | 20 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl
reactant | 1,3-propylenediamine | 22.2 g | C(CCN)N | C3H10N2
product | N-[(5-isoquinolyl)sulfonyl]-1,3-propylenediamine | 16.3 g | C1=NC=CC2=C(C=CC=C12)S(=O)(=O)NCCCN | C12H15N3O2S
